US07875606B2
0.9 g (4.4 mmoles) of sodium methoxide (in the form of a 28% methanol solution) was added, at room temperature, into a solution of 1.0 g (2.9 mmoles) of 5-chloromethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline dissolved in 10 ml of methanol. The mixture was heated for refluxing for 5 hours, to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order, and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 3.3 g (yield: quantitative) of 5-chloromethyl-3-(5-methoxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmeth-ylthio)-5-methyl-2-isoxazoline.

reactant | sodium methoxide | 4.4 mmoles, 0.9 g | C[O-].[Na+]
reactant | 5-chloromethyl-3-(5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | 2.9 mmoles, 1.0 g | ClCC1(CC(=NO1)SCC=1C(=NN(C1F)C)C(F)(F)F)C | C11H12ClF4N3OS
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-chloromethyl-3-(5-methoxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmeth-ylthio)-5-methyl-2-isoxazoline | 3.3 g, yield: quantitative | ClCC1(CC(=NO1)SCC=1C(=NN(C1OC)C)C(F)(F)F)C | C12H15ClF3N3O2S
